US08106215B2
A.6.4 Synthesis of (1S,2S,5R)-(2-aminomethyl-7,7-difluoro-3-aza-bicyclo[3.3.0]-oct-3-yl)-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone
A mixture of (1S,2S,5R)-2-[3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione (130 mg), hydrazine monohydrate (0.078 mL) in EtOH (10 mL) was stirred at reflux for 1 h 45. After cooling to RT, the reaction mixture was concentrated in vacuo, dissolved in DCM, washed twice with water, brine, dried (MgSO4), filtered and concentrated to yield the title compound (90 mg, 92%) as a colorless oil which was used for the next step without further purification. LC-MS: tR=0.79 min; [M+H]+=392

reactant | (1S,2S,5R)-2-[3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-7,7-difluoro-3-azabicyclo[3.3.0]oct-2-ylmethyl)-isoindole-1,3-dione | 130 mg | CC=1SC(=C(N1)C(=O)N1[C@@H]([C@H]2CC(C[C@H]2C1)(F)F)CN1C(C2=CC=CC=C2C1=O)=O)C=1C=C(C=CC1)C | C28H25F2N3O3S
reactant | hydrazine monohydrate | 0.078 mL | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | (1S,2S,5R)-(2-aminomethyl-7,7-difluoro-3-aza-bicyclo[3.3.0]-oct-3-yl)-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | 90 mg, 92% | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)(F)F | C20H23F2N3OS
